US04533731
To 60 ml of anhydrous N,N-dimethylformamide were added 9.63 g of the 1-(3-morpholinopropyl)-3-amino-5-chloroindazole, 8.98 g of 3-bromopropyldiethylamine hydrobromide and 7.89 g of anhydrous potassium carbonate, and the mixture was stirred for 12 hours at 80° C. After cooling, the mixture was added with 80 ml of water and extracted with diethyl ether. The diethyl ether layer was extracted three times with 2N hydrochloric acid, and the hydrochloric acid layer was washed with diethyl ether. The pH of the layer was adjusted to at least 11 with potassium carbonate, and the alkali layer was extracted three times with chloroform. The chloroform layer was dried over anhydrous sodium sulfate, and chloroform was removed under reduced pressure. The residue thus obtained was subjected to an alumina-column chromatography (alumina: 200 g) using chloroform as the developing solvent to give 7.87 g of 1-(3-morpholinopropyl)-3-(3-diethylaminopropylamino)-5-chloroindazole having the following analytical values in a yield of 59 %.

reactant | N,N-dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
reactant | 1-(3-morpholinopropyl)-3-amino-5-chloroindazole | 9.63 g | O1CCN(CC1)CCCN1N=C(C2=CC(=CC=C12)Cl)N | C14H19ClN4O
reactant | 3-bromopropyldiethylamine hydrobromide | 8.98 g | Br.BrCCCN(CC)CC
reactant | potassium carbonate | 7.89 g | C([O-])([O-])=O.[K+].[K+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | 80 ml | O | H2O
product | 1-(3-morpholinopropyl)-3-(3-diethylaminopropylamino)-5-chloroindazole | 7.87 g, yield of 59 % | O1CCN(CC1)CCCN1N=C(C2=CC(=CC=C12)Cl)NCCCN(CC)CC | C21H34ClN5O
